US08048901B2
(1R,3S)-5-(2-Methoxyethoxy)-1-{2-[3-(5-methyl-2-m-tolyloxazol-4-yl-methoxy)cyclohexyloxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid
60 mg of ethyl 5-(2-methoxyethoxy)-1-{2-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylate are dissolved in 2 ml of THF/methanol 3:1, and 0.15 ml of a 1 N lithium hydroxide solution is added. The mixture is stirred at room temperature for 24 h. All volatile components are removed under reduced pressure, the residue is taken up in DMF/acetonitrile, 70 μl of TFA are added and the mixture is filtered and purified by RP-HPLC. This gives 14 mg of (1R,3S)-5-(2-methoxyethoxy)-1-{2-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid as a colorless oil. C31H37N3O7 (563.66), MS (ESI): 564 (M+H+).

reactant | ethyl 5-(2-methoxyethoxy)-1-{2-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 60 mg | COCCOC=1C=C2C(=CN1)N(C(=C2)C(=O)OCC)CCOC2CC(CCC2)OCC=2N=C(OC2C)C=2C=C(C=CC2)C | C33H41N3O7
solvent | THF methanol | 2 ml | C1CCOC1.CO
solvent | lithium hydroxide | 1 N | [OH-].[Li+]
product | (1R,3S)-5-(2-Methoxyethoxy)-1-{2-[3-(5-methyl-2-m-tolyloxazol-4-yl-methoxy)cyclohexyloxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | COCCOC=1C=C2C(=CN1)N(C(=C2)C(=O)O)CCO[C@H]2C[C@H](CCC2)OCC=2N=C(OC2C)C=2C=C(C=CC2)C | C31H37N3O7
